US08492582B2
Water (3.0 mL), sodium carbonate (1.1 g), tert-butyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (1.5 g), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)palladium(II) dichloride (30 mg) were added to an ethylene glycol dimethyl ether (10 mL) solution of methyl 4-chloro-2-nitrobenzoate (0.90 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 1.5 g of methyl 4-(2-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate as a light yellow solid.

reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 1.5 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NC(OC(C)(C)C)=O)C | C17H26BNO4
reactant | methyl 4-chloro-2-nitrobenzoate | 0.90 g | ClC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | Water | 3.0 mL | O | H2O
product | methyl 4-(2-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate | 1.5 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C19H20N2O6
